US05057586
A mixture of 42.0 g (0.33 mol) of methyl trifluoroacetate, 26.6 g (0.33 mol) of -chloroethanol, and 150 mL of dimethylsulfoxide (DMSO) was stirred at 10°-20° while 15.8 g (0.33 mol) of 50% NaH in mineral oil was added portionwise. The resulting mixture was stirred at 20° for 2 h, at 25° for several days, and then poured into 1 L of water. The resulting aqueous layer was extracted with 100 mL of ether. The organic layers were combined, then washed twice with water, dried over CaSO4, and distilled to give 35.6 g (63% yield) of 2-methoxy-2-trifluoromethyl-1,3-dioxolane, b.p. 60°-65° at 3.3 kPa (25 mm), and a residue containing about 4.8 g (7% yield) of by-product -(2-chloroethoxy)-2-trifluoromethyl-1,3-dioxolane (estimated by GC).

reactant | methyl trifluoroacetate | 0.33 mol, 42.0 g | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | chloroethanol | ClC(C)O | C2H5ClO
reactant | dimethylsulfoxide | 150 mL | CS(=O)C | C2H6OS
reactant | NaH | 0.33 mol, 15.8 g | [H-].[Na+]
solvent | water | 1 L | O | H2O
product | 2-methoxy-2-trifluoromethyl-1,3-dioxolane | 35.6 g, 63% yield | COC1(OCCO1)C(F)(F)F | C5H7F3O3
